simulator lang=spectre 
parameters VDD = 1.8
//tr is (transition time)/2
parameters tr = 50p 
//f is the fall time 
//parameters f = 100p
//K is the signal period 
parameters K = 40n 

vVdd (vdd 0) vsource dc=VDD
vGnd (gnd 0) vsource dc=0
